US05134152
3,3,4-Trimethyl-2-phenyl-2-(1H-1,2,4-triazol-1-yl)methyloxetane
4.0 ml (37.64 mmole) of 2-methyl-2-butene were added to a solution of 1.1 g (5.88 mmole) of 2-(1H-1,2,4-triazol-1-yl)acetophenone in 15 ml of a 2:1 by volume mixture of acetonitrile and benzene. The mixture was then irradiated with a 450 watt medium pressure mercury-arc lamp (Hannovea Co., Inc.) for 15 hours. At the end of this time, the reaction mixture was concentrated by evaporation under reduced pressure, and the residue was subjected to column chromatography through silica gel, using a 1:1 by volume mixture of hexane and ethyl acetate as the eluent, to afford 409.7 mg (yield 27%) of the title compound, melting at 102° C.

reactant | 2-methyl-2-butene | 37.64 mmole, 4.0 ml | CC(C)=CC | C5H10
reactant | 2-(1H-1,2,4-triazol-1-yl)acetophenone | 5.88 mmole, 1.1 g | N1(N=CN=C1)CC(=O)C1=CC=CC=C1 | C10H9N3O
reactant | acetonitrile | C(C)#N | C2H3N
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 3,3,4-Trimethyl-2-phenyl-2-(1H-1,2,4-triazol-1-yl)methyloxetane | 409.7 mg, yield 27% | CC1(C(OC1C)(CN1N=CN=C1)C1=CC=CC=C1)C | C15H19N3O
